US07618973B2
5-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid (tetrahydro-pyran-4-yl)-amide
As described for example 2b, 5-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid (125 mg, 0.40 mmol) was converted, using 4-aminotetrahydropyran instead of aminomethylcyclopropane to the title compound (SiO2, heptane:ethyl acetate=70:30 to 40:60, 73 mg, 46%) which was obtained as a white solid. MS: m/e=395.1 [M+H]+.

reactant | 5-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid | 0.40 mmol, 125 mg | CC1=C(C(=NO1)C1=CC=CC=C1)COC=1N=CC(=NC1)C(=O)O | C16H13N3O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 5-(5-Methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyrazine-2-carboxylic acid (tetrahydro-pyran-4-yl)-amide | 73 mg, 46% | O1CCC(CC1)NC(=O)C1=NC=C(N=C1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C21H22N4O4
